US07795236B2
8-(3′-Benzyloxybiphenyl-4-ylmethylamino)adenosine
A mixture of a 8-bromoadenosine (0.130 g), 3′-benzyloxy-biphenyl-4-ylmethylamine (0.326 g) and N,N-diisopropyl-ethylamine (0.262 mL) in 1-propanol (3.8 mL) was stirred under reflux for 24 hours. The reaction mixture was cooled to room temperature and then concentrated under reduced pressure. The residue was purified by column chromatography on amino-propylated silica gel (eluent: dichloromethane/methanol=12/1) to give the title compound (0.120 g).

reactant | 8-bromoadenosine | 0.130 g | BrC=1N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C10H12BrN5O4
reactant | 3′-benzyloxy-biphenyl-4-ylmethylamine | 0.326 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CC=C(C=C1)CN | C20H19NO
reactant | N,N-diisopropyl-ethylamine | 0.262 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1-propanol | 3.8 mL | C(CC)O | C3H8O
product | 8-(3′-Benzyloxybiphenyl-4-ylmethylamino)adenosine | 0.120 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CC=C(C=C1)CNC=1N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C30H30N6O5
